US07279491B2
4-(4-Hydroxymethyl-piperidin-1-yl)-benzaldehyde
A suspension of 4-fluorobenzaldehyde (4.3 mL), 4-hydroxymethylpiperidine (4.8 g), and cesium carbonate (26 g) in DMF (80 mL) was heated to 100° C. for 24 h and cooled to room temperature. Water (400 mL) was added, and the resulting precipitate was collected by filtration to give the title compound as a tan amorphous powder (4.1 g).

reactant | 4-fluorobenzaldehyde | 4.3 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-hydroxymethylpiperidine | 4.8 g | OCC1CCNCC1 | C6H13NO
reactant | cesium carbonate | 26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | 400 mL | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 4-(4-Hydroxymethyl-piperidin-1-yl)-benzaldehyde | 4.1 g | OCC1CCN(CC1)C1=CC=C(C=O)C=C1 | C13H17NO2
